US04076717
2.12 Grams of 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid was dissolved in 60 ml. of redistilled N,N-dimethylformamide by warming to approximately 60° C. To the resultant solution was added .4 gram of chloracetonitrile, followed by .55 gram of triethylamine. The solution was stirred at room temperature under anhydrous conditions for about 24 hours, then diluted with water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, acidified with concentrated hydrochloric acid in 2-propanol, diluted with ethyl ether and cooled. The precipitate which formed was recrystallized from a mixture of methanol and tetrahydrofuran, affording cyanomethyl 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylate hydrochloride, melting at about 243.5°-245.5° C.

reactant | 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid | C(#N)C(CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | chloracetonitrile | .4 gram | ClCC#N | C2H2ClN
reactant | triethylamine | .55 gram | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | cyanomethyl 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylate hydrochloride | Cl.C(#N)C(CCN1CCC(CC1)(C(=O)OCC#N)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H29N3O2.ClH/c31-19-23-35-28(34)29(25-10-4-1-5-11-25)16-20-33(21-17-29)22-18-30(24-32,26-12-6-2-7-13-26)27-14-8-3-9-15-27;/h1-15H,16-18,20-23H2;1H
